US05079363
Preparation of 10-(3-diethylamino-propylamino) 5H-pyrido[3',4':4,5]pyrrolo[2,3-g]isoquinoline
0.87 g (0.0033 mole) of 10-methoxy 6-methyl 5H-pyrido[3',4':4,5]pyrrolo[2,3-g]isoquinoline and 0.495 g (0.003 mole) of sodium iodide are suspended in 25 ml of acetonitrile and 4.2 ml (0.33 mole) of trimethylsilylchloride, and then heated at 40° C. for 17 hours. 10.5 ml (0.050 mole) of hexamethyldisilazane, 0.113 g (6×10-4 mole) of anhydrous p-toluenesulfonic acid and 22.4 ml (0.14 mole) of diethylaminopropylamine are then added. After distillation of the acetonitrile, the mixture is heated at reflux for 20 hours. It is evaporated to dryness under a partial vacuum and the residue is stirred with 20 ml of water and 5 ml of diisopropyl ether for 1 hour. The precipitate obtained is filtered off and dried under vacuum at 50° C.

reactant | 10-methoxy 6-methyl 5H-pyrido[3',4':4,5]pyrrolo[2,3-g]isoquinoline | 0.0033 mole, 0.87 g | COC1=NC=CC2=C(C3=C(C=C12)C1=C(N3)C=CN=C1)C | C16H13N3O
reactant | sodium iodide | 0.003 mole, 0.495 g | [I-].[Na+]
reactant | trimethylsilylchloride | 0.33 mole, 4.2 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | hexamethyldisilazane | 0.050 mole, 10.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | p-toluenesulfonic acid | 6×10-4 mole, 0.113 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethylaminopropylamine | 0.14 mole, 22.4 ml | C(C)N(CC)CCCN | C7H18N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 10-(3-diethylamino-propylamino) 5H-pyrido[3',4':4,5]pyrrolo[2,3-g]isoquinoline | C(C)N(CCCNC1=NC=CC2=CC3=C(C=C12)C1=C(N3)C=CN=C1)CC | C21H25N5
